US04327101
2.67 g of ethyl 6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate are suspended in 50 ml of dimethylformamide, and 0.46 g of 66% sodium hydride are added thereto. The suspension is stirred at room temperature until it ceases to release hydrogen gas. 3.12 g of ethyl iodide are added to the suspension, and said suspension is stirred at room temperature for 24 hours and then at 50° to 60° C. for 3 hours. The reaction mixture is condensed to dryness, and water is added to the residue. After stirring the aqueous mixture, insoluble materials are collected by filtration, washed with isopropanol and then dried. 1.95 g of ethyl 1-ethyl-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate are thereby obtained as crystalline powder. Yield: 66%

reactant | ethyl 6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2.67 g | FC=1C=C2C(C(=CNC2=C(C1C)F)C(=O)OCC)=O | C13H11F2NO3
reactant | sodium hydride | 0.46 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl iodide | 3.12 g | C(C)I | C2H5I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-ethyl-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.95 g, Yield: 66% | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)OCC | C15H15F2NO3
